US08026370B2
(1-phenyl-1H-pyrazol-4-yl)methanol
Lithium aluminum hydride (3.51 g) was suspended in tetrahydrofuran (200 mL), 1-phenyl-1H-pyrazole-4-carboxylic acid ethyl ester (20 g) synthesized in Reference Example 16 was added under ice-cooling, and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was ice-cooled, water (7 mL) and aqueous sodium hydroxide solution (1 mol/L, 3.5 mL) were successively added dropwise. After warming to room temperature, the mixture was stirred for 30 min. Anhydrous sodium sulfate was added to the reaction mixture, the mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. Diethyl ether (30 mL) and hexane (30 mL) were added to the residue, and the residue was washed by suspending and filtered. The obtained solid was vacuum dried to give the title compound (14.8 g) as a white solid.

reactant | Lithium aluminum hydride | 3.51 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-phenyl-1H-pyrazole-4-carboxylic acid ethyl ester | 20 g | C(C)OC(=O)C=1C=NN(C1)C1=CC=CC=C1 | C12H12N2O2
reactant | sodium hydroxide | 1 mol/L, 3.5 mL | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 7 mL | O | H2O
product | (1-phenyl-1H-pyrazol-4-yl)methanol | 14.8 g | C1(=CC=CC=C1)N1N=CC(=C1)CO | C10H10N2O
